US09227975B2
Preparation of N-(6-(2-(3-fluorophenyl)piperidin-1-yl)imidazo[1,2-b]pyridazin-3-yl)-3-hydroxyazetidine-1-carboxamide
To a DCM (2 mL) solution of 6-(2-(3-fluorophenyl)piperidin-1-yl)imidazo[1,2-b]pyridazin-3-amine (45 mg, 0.14 mmol) was added CDI (35 mg, 0.22 mmol) at ambient temperature in one portion. After stirring for five hours, azetidin-3-ol hydrochloride (54 mg, 0.33 mmol) was added in one portion, followed by DIEA (0.05 mL, 0.29 mmol), and the reaction was stirred at ambient temperature overnight. The reaction was diluted with DCM, washed with water, dried over Na2SO4 and concentrated. The crude product was purified by reversed phase column, eluting with 0 to 55% CH3CN/water to obtain the desired product as a solid (30 mg, 51% yield). MS (apci) m/z=411.2 (M+H).

reactant | 6-(2-(3-fluorophenyl)piperidin-1-yl)imidazo[1,2-b]pyridazin-3-amine | 0.14 mmol, 45 mg | FC=1C=C(C=CC1)C1N(CCCC1)C=1C=CC=2N(N1)C(=CN2)N | C17H18FN5
reactant | CDI | 0.22 mmol, 35 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | azetidin-3-ol hydrochloride | 0.33 mmol, 54 mg | Cl.N1CC(C1)O
reactant | DIEA | 0.29 mmol, 0.05 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | N-(6-(2-(3-fluorophenyl)piperidin-1-yl)imidazo[1,2-b]pyridazin-3-yl)-3-hydroxyazetidine-1-carboxamide | 30 mg, 51% yield | FC=1C=C(C=CC1)C1N(CCCC1)C=1C=CC=2N(N1)C(=CN2)NC(=O)N2CC(C2)O | C21H23FN6O2
